US08536165B2
Ethyl 2-aminobenzoate
To a solution of 2-aminobenzoic acid (7.29 mmol, 1.0 g) in ethanol (20 ml), H2SO4 (45 mmol, 2.5 ml) was added and the mixture was refluxed for 20 hours. The solvent was evaporated and the crude residue was dissolved in water. The solution neutralised with 6N NaOH aqueous solution and extracted with CHCl3. The organic phase was evaporated affording 0.939 g (yield 78%) of the expected product.

reactant | 2-aminobenzoic acid | 7.29 mmol, 1.0 g | NC1=C(C(=O)O)C=CC=C1 | C7H7NO2
reactant | H2SO4 | 45 mmol, 2.5 ml | OS(=O)(=O)O | H2O4S
reactant | ethanol | 20 ml | C(C)O | C2H6O
product | Ethyl 2-aminobenzoate | 0.939 g, yield 78% | NC1=C(C(=O)OCC)C=CC=C1 | C9H11NO2
